* C:\users\kuhu\My Documents\kuhu-miniproject1.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 N001 Vminus VDD 0 Vout level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12 ;§pnba In+)In-)V+)V-)OUT
VDD VDD 0 3.3
R1 Vout N001 {R * (1 + gauss(cv_r))}
R2 N001 Vref {R * (1 + gauss(cv_r))}
R3 Vminus Vout {3.36 * R * (1 + gauss(cv_r))}
C1 Vminus 0 {C * (1 + gauss(cv_c))}
R5 Vref VDD {R * (1 + gauss(cv_r))}
R6 Vref 0 {R * (1 + gauss(cv_r))}
.ic V(Vminus)=0 v(Vout)=3.3
.tran 10u 4s uic
.step param run 1 250 1
.include engr2420.sub
.param R=100K cv_r=0.002 C=1u cv_c=0.02
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\kuhu\My Documents\LTspice\cktsym\opamprails.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
